US09029399B2
Preparation of intermediate 6-Bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid (I-26c)
Using analogous reagents and reaction conditions as described in Example 25 for the preparation of I-25b above, 6-bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester (I-26b: 2.3 g, 7.85 mmol) in THF (25 mL) was hydrolyzed with LiOH (1.65 g, 39.38 mmol) and water (20 mL) to afford 1.9 g of the product (83% yield).

reactant | 6-bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 7.85 mmol, 2.3 g | COC(=O)C1=CC2=C(S1)C=C(C=C2F)Br | C10H6BrFO2S
reactant | LiOH | 39.38 mmol, 1.65 g | [Li+].[OH-]
reactant | water | 20 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid | 1.9 g, 83% yield | BrC=1C=C(C2=C(SC(=C2)C(=O)O)C1)F | C9H4BrFO2S
